2111-03-23 07:38:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Shortness of breath, mucous plugging
   24 Hour Events:
 PICC LINE - START [**2111-3-22**] 12:18 PM
   [**3-22**]:
   - got intubated, sbp dropped to 70s, started on neo and given ivfs
   - surgery recommended IR for peg placement, and ENT for trach (OGT for
   now)
   - had episode of bradycardia, on ECG looked like first degree heart
   block w/ PVC
   - OGT vs dobhoff placed
   - [**Hospital1 403**] oncologist is Dr. [**Last Name (STitle) 13548**]; [**Hospital1 403**] rad onc Dr. [**Last Name (STitle) 13549**].
   - ? treat for [**Female First Name (un) **] esophagitis and/or swab mouth for HSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-3-22**] 10:16 PM
   Metronidazole - [**2111-3-23**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2111-3-22**] 01:15 PM
   Fentanyl - [**2111-3-22**] 01:30 PM
   Pantoprazole (Protonix) - [**2111-3-22**] 09:30 PM
   Enoxaparin (Lovenox) - [**2111-3-22**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 64 (52 - 93) bpm
   BP: 117/67(77) {57/34(40) - 160/87(104)} mmHg
   RR: 25 (12 - 36) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  6,273 mL
                                                                    827 mL
   PO:
             TF:
   IVF:
                                                                  3,437 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    460 mL
   Urine:
                                                                    590 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,133 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 541 (435 - 609) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.41/33/150/19/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   7.6 g/dL
   124 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.2 mEq/L
   29 mg/dL
   111 mEq/L
   137 mEq/L
   23.1 %
   31.3 K/uL
        [image002.jpg]
                             [**2111-3-22**]  11:13 AM
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
   WBC
   31.3
   Hct
   23.1
   Plt
   234
   Cr
   0.6
   TCO2
   27
   23
   22
   Glucose
   124
   Other labs: PT / PTT / INR:13.4/36.8/1.1, Lactic Acid:1.7 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR AP [**2111-3-23**]:
   One portable upright view. Comparison with the previous study done
   [**2111-3-22**].
   The 5 cm pleural-based mass is again demonstrated in the lateral aspect
   of the right chest. The heart and mediastinal structures are unchanged.
   An endotracheal tube has been inserted and terminates at the thoracic
   inlet. A nasogastric tube has been withdrawn. There is no other
   significant change.
   IMPRESSION:
   Tube placement as described.
   Microbiology: [**2111-3-22**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; ACID FAST SMEAR-CANCELLED
   PRELIMINARY; ACID FAST CULTURE-PRELIMINARY INPATIENT
   [**2111-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2111-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2111-3-21**]  FLUID,OTHER ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PENDING INPATIENT
   Assessment and Plan
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   # Respiratory failure: Likely upper-respiratory secondary to not being
   able to protect his airway from his own secretions. Patient with
   underlying malignancy, dysphagia and risk for aspiration.  He is now
   intubated and ventilated for airway protection.
   - Consider repeat ABG given decrease in bicarb
   - Cont propofol titrate for sedation
   - Consult ENT for trach and IR for peg per gen [**Doctor First Name 213**] recs
   - CXR assess for ETT placement
 confirmed
   - Currently on cefepime for nosocomial infection, can be d/c
d pending
   sputum culture
   # Hypotension: Patient became hypotensive after intubation, likely
   secondary hemodynamic effects.  He does have a leukocytosis, and will
   continue to monitor for sepsis and treat for c diff and possible
   aspiration pna.  Recent echo w/ EF 55%, unlikely to be cardiogenic
   shock. Patient did receive etomidate and given concern for TB, cortisol
   18 which makes adrenal insufficiency unlikely.
   - Blood cx this AM
   - Wean neo gtt as hemodynamics improve
   - Bolus IVFs prn
   # Acute anemia: HCT at 23, lowest since admission. Maybe secondary to
   dilutional from ivfs vs hemolysis vs GI bleed, although no h/o this.
   - Recheck HCT at 3pm
   - Collect type and screen
   - PIV plus PICC
   - Check hemolysis labs
   - Guiac all stools
   - Continue PPI
   # Latent TB: Concern for potential reactivation of TB.  CTA notable for
   tree in [**Male First Name (un) **] opacity; while this is non-specific in the setting of
   positive PPD will r/o for active TB.  Per [**Hospital1 403**] records, patient was not
   ruled out as he was unable to produce sputum and in the absence of
   symptoms, he did not undergo bronch.
   - Rule out TB, patient now intubated cont to collect 3 sets of sputum
   - ID following, appreciate recs
   - Continue precautions
   # Leukocytosis: Concerning for sepsis in the setting of pressor
   requirement.  C diff vs Aspiration vs malignancy.
   - Cont iv flagyl, for c diff; switch po to pr vanc
   - Cont cefepime for concerns of aspiration, can d/c once sputum cx back
   - Collect sputum culture
   - Consider removing picc line
   - Send off blood cx
   - F/u blood cx/urine cx
   - Send stool cx
   - CXR
   # C diff: Started treatment while at nursing home.
   - Send stool cx
   - Cont vanc/flagyl
   - Low threshold for vanc enema
   # Hypercalcemia: Resolved. Adjusted Ca [**13**].5. S/p pamidronate x1 [**3-20**].
   Secondary to malignancy vs bony mets.
   - Cont to trend
   - IVFs for now, can give second dose of pamidronate if needed
   - Send PTH, PTH rp, vit D (have not been sent)
   # Squamous cell carcinoma: Followed at [**Hospital1 403**]. Per [**Hospital1 403**] records dx [**2108**],
   s/p cisplatin/docetaxol (last course [**2110-12-30**]) and XRT to mass ([**2108**])
   and XRT to hip ([**2110**]). PET ([**5-8**]) sig for decrease in size of tongue,
   lung, rib lesion, but increase in pubic ramus and colon, but  CT [**11-7**]
   w/ progressive disease and increase in lung mass, and new 7^th rib and
   t6/t8 met.  [**7-8**] colonoscopy neg for masses/polyps.
   - Will need to discuss with outpatient oncologist regarding further
   treatment possibilities: palliative chemo vs XRT vs further surgical
   intervention
   - Heme/onc consult
   - Possible XRT
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-3-22**] 12:14 PM 70.[**Telephone/Fax (5) 3520**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, will clarify further with health care proxy
   Disposition: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-3-22**] 04:48 PM 70.[**Telephone/Fax (5) 3520**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-03-23 09:42:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, acute on chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 y.o. man with SCCa of tongue with mets to lung/ribs/hips transferred
   to the ICU with acute on chronic respiratory failure secondary to
   secretions and mucus plugging.  Intubated in ICU, subsequently had
   hypotension requiring IVFs and neo.  Surgery consulted for PEG/trach
   placement.
   24 Hour Events:
 PICC LINE - START [**2111-3-22**] 12:18 PM
   Bradycardia, first degree HB with PVCs overnight when sleeping
   Suctioned for thick white secretions, moderate requiring secretions
   every 3 to 4 hours
   Continues on neo
   Urine output picking up this morning
   History obtained from Patient
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-3-22**] 10:16 PM
   Metronidazole - [**2111-3-23**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2111-3-22**] 01:15 PM
   Fentanyl - [**2111-3-22**] 01:30 PM
   Pantoprazole (Protonix) - [**2111-3-22**] 09:30 PM
   Enoxaparin (Lovenox) - [**2111-3-22**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-3-23**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 60 (52 - 93) bpm
   BP: 125/67(80) {57/34(40) - 160/87(104)} mmHg
   RR: 24 (12 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,273 mL
                                                                    960 mL
   PO:
             TF:
   IVF:
                                                                  3,437 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    620 mL
   Urine:
                                                                    590 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,133 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 541 (435 - 609) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 11 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.41/33/150/19/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, thrush
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   234 K/uL
   124 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.2 mEq/L
   29 mg/dL
   111 mEq/L
   137 mEq/L
   23.1 %
   31.3 K/uL
        [image002.jpg]
                             [**2111-3-22**]  11:13 AM
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
   WBC
   31.3
   Hct
   23.1
   Plt
   234
   Cr
   0.6
   TCO2
   27
   23
   22
   Glucose
   124
   Other labs: PT / PTT / INR:13.4/36.8/1.1, Lactic Acid:1.7 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ACUTE ON CHRONIC RESPIRATORY FAILURE:  Continues intubated, mainly
   for inability to manage secretions, mucus plugging.  Sputum sent for
   gram stain, C & S.  Difficult intubation given tongue lesion/anatomy
   per anesthesia.  Surgery recommended consulting ENT service to evaluate
   further for ?trach.  Sending sputum for AFB as well given positive PPD,
   continue respiratory precautions.  Continues cefipime.
 SCCA TONGUE WITH METS:  Unclear what the extent of his tongue lesion
   is and where he is with respect to treatment, followed at [**Hospital1 403**].
   Hosestaff to call managing oncologist there for more information.
 HYPOTENSION:  Manifested after intubation suggesting intravascular
   volume depletion in setting of poor po intake.  Responsive to IVFs
   albeit still requiring low dose neo, possible septic shock, check blood
   cultures, urine cultures. Does not appear toxic on exam.
 LEUKOCYTOSIS:  Increasing, diff pending.  He has not been able to
   receive po vanco given unable to take po's.   Blood, sputum, urine
   cultures pending.
 ORAL THRUSH:  Also concerned for [**Female First Name (un) **] esophagitis given it was
   noted to be extensive when intubated by anesthesia yesterday. Starting
   fluconazole.  Will consult GI to evaluate prior to placing Dobloff
   tube. Will
 C. DIFF:  On po vanco albeit has been unable to take this.  Will give
   per rectum pending workup for ?[**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 13550**] prior to placing
   Dobloff.  Being evaluated for PEG.
 ANEMIA:  Hct dropped in setting of aggressive volume repletion
   overnight, likely dilutional.  No hemoptysis noted overnight.  Will
   follow serial CBCs, guaiac all stools.  For access he has a PICC and
   two peripheral IVs. Continue PPI.  Type and screen.
 IMPAIRED SKIN INTEGRITY:  Stage II decubitus, ?wound care consult.
 ALTERATION IN NUTRITION:  On TPN/lipids.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-3-23**] 05:17 AM 70.[**Telephone/Fax (5) 3520**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2111-03-24 07:30:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - ENT consult: won't look at larynx while intubated.  Want to know plan
   for CA treatement before trach consult.
   - Dobhoff placed and PO vanc started.
   - Tube feeds started
   - VBG was normal.
   - T&S at 3pm.
   - ID recs: d/c cefepime.
   - Sputum AFB pending.
   - KUB limited by motion artifact but normal bowel pattern.
   - Called [**Hospital1 403**] re: cancer plan but no return call as of 18:00.
   - Fluconazole started.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2111-3-23**] 02:15 PM
   Cefipime - [**2111-3-23**] 09:36 PM
   Metronidazole - [**2111-3-24**] 04:13 AM
   Vancomycin - [**2111-3-24**] 06:07 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2111-3-23**] 02:15 PM
   Pantoprazole (Protonix) - [**2111-3-23**] 07:54 PM
   Enoxaparin (Lovenox) - [**2111-3-23**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2111-3-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 70 (59 - 77) bpm
   BP: 106/51(64) {90/47(56) - 134/66(82)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,683 mL
                                                                    444 mL
   PO:
             TF:
                                                                     36 mL
                                                                    106 mL
   IVF:
                                                                  1,108 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                  1,115 mL
   Urine:
                                                                  2,315 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    368 mL
                                                                   -671 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (416 - 866) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 11.7 L/min
   Physical Examination
   GEN: Intubated, but alert
   CV: RRR, no RMG
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: No edema
   NEURO: Opens eyes to voice, moves all four extremities to command,
   squeezes fingers bilaterally, PERRLA
   Labs / Radiology
   252 K/uL
   8.1 g/dL
   128 mg/dL
   0.8 mg/dL
   20 mEq/L
   5.2 mEq/L
   31 mg/dL
   109 mEq/L
   137 mEq/L
   24.6 %
   24.2 K/uL
        [image002.jpg]
                             [**2111-3-22**]  11:13 AM
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
   WBC
   31.3
   24.2
   Hct
   23.1
   23.0
   24.6
   Plt
   234
   252
   Cr
   0.6
   0.8
   TCO2
   27
   23
   22
   Glucose
   124
   128
   Other labs: PT / PTT / INR:13.7/36.7/1.2, LDH:201 IU/L, Lactate
   1.4,Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: .
   Retics: 4.3
 absolute retics 2.5, index 1.24 (for nl hct 40)
   [1][image003.gif]   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Ovalocy
                                   Schisto
                                   Tear Dr
   [2][**2111-3-23**] 03:28PM
                                   NORMAL
                                     1+
                                     1+
                                     1+
                                   NORMAL
                                     1+
   1+
   Haptoglobin 181
   Imaging:
   Dobhoff in stomach
   Microbiology:
   Sputum smears for AFB negative x 2, 3^rd pending
   No growth in other cultures
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   # Squamous cell carcinoma: Followed at [**Hospital1 403**]. Per [**Hospital1 403**] records dx [**2108**],
   s/p cisplatin/docetaxol (last course [**2110-12-30**]) and XRT to mass ([**2108**])
   and XRT to hip ([**2110**]). PET ([**5-8**]) sig for decrease in size of tongue,
   lung, rib lesion, but increase in pubic ramus and colon, but  CT [**11-7**]
   w/ progressive disease and increase in lung mass, and new 7^th rib and
   t6/t8 met.  [**7-8**] colonoscopy neg for masses/polyps.
   - Will need to discuss with outpatient oncologist regarding further
   treatment possibilities
   # Respiratory failure:
   Upper-respiratory/airway obstruction [**3-3**] cancer. Need to discuss with
   primary oncologist, but likely options are trach vs extubation that may
   be terminal.
   - discuss with [**Hospital1 403**] oncologist and HCP
   - will remain intubated for now
   - Repeat VBG given decrease in bicarb
   - Cont propofol titrate for sedation
   - Currently on cefepime for nosocomial infection, can be d/c
d pending
   sputum culture
   # Hypotension:
   Patient became hypotensive after intubation. He does have a
   leukocytosis but afebrile and trending down. [**Month (only) 51**] be hypovolemic. Also
   considering poor filling from vetn sentting but pCO2s have been low and
   on PSV 5/5 so low likelyhood that intrathoracic pressure increased.
   Cortisol normal.
   - attempt to wean neo to keep SBP >95
   - IVF 500cc now and more prn
   # Hyperkalemia
   Renal function normal. [**Month (only) 51**] be [**3-3**] metabolic acidosis. Low suspicion for
   tumor lysis.
   - repeat K
   - ECG
   - eval acid base with repeat VBG
   #  Metabolic acidosis, non-gap
   Bicarb 20 today. No VBG from today so difficult to say whether primary
   or compensatory though in past pHs have been normal to slightly low and
   pCO2s in 20s so likely primary process. Lactate normal.
   - check VBG
   - monitor
   # Esophageal candidiasis
   - fluconazole
   # Anemia: HCT stable from yesterday
   Hemolysis labs normal.
   - Guiac all stools
   - Continue PPI
   - continue to monitor
   # Latent TB:
   Concern for potential reactivation of TB.  CTA notable for tree in [**Male First Name (un) **]
   opacity; while this is non-specific in the setting of positive PPD will
   r/o for active TB.  Per [**Hospital1 403**] records, patient was not ruled out as he
   was unable to produce sputum and in the absence of symptoms, he did not
   undergo bronch.
   - Rule out TB, patient now intubated cont to collect 3 sets of sputum
   - ID following, appreciate recs
   - last set of AFB pending
   - Continue precautions
   # Leukocytosis:
   Trending down. [**Month (only) 51**] be [**3-3**] cfdiff. Also treating for PNA.
   - Cont iv flagyl, po vanc, for c diff
   - Cont cefepime pending sputum cultures
   - f/u cultures
   # C diff: Started treatment while at nursing home.
   - Send stool cx
   - Cont vanc/flagyl
   # Hypercalcemia: Resolved. Adjusted Ca [**13**].5. S/p pamidronate x1 [**3-20**].
   Secondary to malignancy vs bony mets.
   - Cont to trend
   - IVFs for now, can give second dose of pamidronate if needed
   - F/u PTH, PTH rp, vit D
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2111-3-23**] 08:25 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   ICU Attending Note
   I saw and examined the patient with the medical housestaff.  The
   assessment and plan was discussed and is detailed above.  I would
   emphasize the following.  Moderate oral secretions, minimal via ETT.
   Remains intubated for airway protection given extensive SCCa of
   tongue.  Comfortable, fully awake RRR, lungs with good air movement, no
   rales or wheeze Abdomen soft, nontender, normal bowel sounds.  No
   edema.  Oral thrush
   Clarified extent of tumor with [**Hospital1 403**] oncologist, had discussed with
   patient that there were no options for therapy that the oncologist felt
   he would tolerate.  Unclear that trach/PEG would be of benefit.
   Discussed with patient and his sister today so he is aware of
   prognosis.  Paliative care to consult with patient and family to
   continue to discuss course.
   Patient is critically ill, continues to require the ETT for airway
   protection until goals of care definitively established.
   Time spent:  35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2111-3-24**] 16:40 ------
References
   1. javascript:command('LHBF','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);

2111-03-25 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned off pressors, gave fluids
   - spoke with [**Hospital1 403**] oncologist, Mr. [**Known lastname 13588**] was unsure of end-of-life care.
   patient perhaps interested in tach/peg but interested in speaking with
   palliative care before deciding
   - palliative care consulted
   - c/o constipation, increased bowel regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2111-3-24**] 02:00 PM
   Cefipime - [**2111-3-24**] 09:46 PM
   Metronidazole - [**2111-3-25**] 12:05 AM
   Vancomycin - [**2111-3-25**] 06:04 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2111-3-24**] 08:00 PM
   Morphine Sulfate - [**2111-3-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-25**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 70 (61 - 82) bpm
   BP: 85/52(60) {85/48(58) - 116/78(84)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 50.8 kg
             Total In:
                                                                  2,830 mL
                                                                    514 mL
   PO:
             TF:
                                                                    790 mL
                                                                    345 mL
   IVF:
                                                                  2,039 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    730 mL
   Urine:
                                                                  3,210 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (449 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.9 L/min
   Physical Examination
   Gen: Intubated; awake; cachectic
   Pulm: CTAB
   CV: RR, no murmurs
   Abd: Soft NTND
   Ext: No edema
   Labs / Radiology
   182 K/uL
   7.9 g/dL
   87 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   27 mg/dL
   109 mEq/L
   136 mEq/L
   24.1 %
   16.9 K/uL
        [image002.jpg]
                             [**2111-3-22**]  11:13 AM
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
   WBC
   31.3
   24.2
   16.9
   Hct
   23.1
   23.0
   24.6
   24.1
   Plt
   [**Telephone/Fax (3) 13589**]
   Cr
   0.6
   0.8
   0.7
   0.8
   TCO2
   27
   23
   22
   Glucose
   124
   128
   86
   87
   Other labs: PT / PTT / INR:13.6/40.2/1.2, ALT / AST:[**9-17**], Alk Phos / T
   Bili:120/0.1, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   # Squamous cell carcinoma: Followed at [**Hospital1 403**]. Per [**Hospital1 403**] oncologist no
   further care that patient could tolerate, recommend comfort measures.
   At this time patient still decidind between trach and peg, would like
   to speak with palliative care. Of note, on [**Hospital1 403**] records diagnosed in
   [**2108**], s/p cisplatin/docetaxol (last course [**2110-12-30**]) and XRT to mass
   ([**2108**]) and XRT to hip ([**2110**]). PET ([**5-8**]) sig for decrease in size of
   tongue, lung, rib lesion, but increase in pubic ramus and colon, but
   CT [**11-7**] w/ progressive disease and increase in lung mass, and new 7^th
   rib and t6/t8 met.  [**7-8**] colonoscopy neg for masses/polyps.
   - Patient deciding between terminal extubation with comfort measures
   and trach/peg, as there are no further treatment options
   - Follow up with palliative care, appreciate their input
   # Respiratory failure: Upper-respiratory/airway obstruction and
   compromise [**3-3**] cancer.
   - Palliative care to consult, as patient deciding between terminal
   extubation vs trach
   - Remains intubated for now
   - Currently on cefepime for nosocomial infection, gram stain negative
   but sputum culture pnd
   - DC cefepime as he has completed over 8 day course for nosocomial
   infxn
   # Hypotension: Patient became hypotensive after intubation. He does
   have a leukocytosis but afebrile and trending down. [**Month (only) 51**] be hypovolemic.
   Also considering compromised preload from intubation and peep. Cortisol
   normal.
   - IVF 500-1000cc prn
   - Cont abx: fluc, and flagyl
   - C diff course will be 14 days from today [**2111-3-25**] at least
   # Esophageal candidiasis:
   - fluconazole
   # Anemia: HCT stable. Hemolysis labs normal.
   - Continue to monitor
   # Latent TB: Concern for potential reactivation of TB.  CTA notable for
   tree in [**Male First Name (un) **] opacity; while this is non-specific in the setting of
   positive PPD will r/o for active TB.  Per [**Hospital1 403**] records, patient was not
   ruled out as he was unable to produce sputum and in the absence of
   symptoms, he did not undergo bronch.
   - Rule out TB, first two sets have been negative for AFB
   - ID following, appreciate recs
   - last set of AFB pending
   - Continue precautions
   # Leukocytosis: Trending down. [**Month (only) 51**] be [**3-3**] cfdiff. Also treating for PNA
   and esophageal candidiasis.
   - Cont iv flagyl, po vanc, fluc
   - f/u cultures and afb
   # C diff: Started treatment while at nursing home.
   - F/u stool cx
   - Cont vanc/flagyl for at least 14 days from [**3-25**] (last day of
   cefepime)
   # Hypercalcemia: Resolved. S/p pamidronate x1 [**3-20**]. Secondary to
   malignancy vs bony mets.
   - Cont to trend
   - IVFs for now, can give second dose of pamidronate if needed
   - F/u PTH, PTH rp, vit D (pending)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2111-3-25**] 03:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient with the medical resident and was
   present during key portions of the services provided.  The assessment
   and plan was discussed and detailed above.  I would emphasize the
   following.  Hypotension overnight responsive to IVFs.  Patient remains
   intubated for airway protection as goals of care sorted through.  No
   secretions per ETT, moderate upper airway secretions.  The palliative
   care team has been consulted.
   Patient is critically ill
   Time spent 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2111-3-25**] 14:00 ------

2111-03-26 07:57:00 Physician Resident Progress Note
Chief Complaint: cancer, airway protection
   24 Hour Events:
   - 3rd sputum neg for AFB, d/c'd precautions.
   - Stool cx were negative
   - ID thinks that candidiasis driving leukocytosis, and treating that
   has improved leuks. Recommend 2 week c diff course starting from [**3-19**].
   And total of 2 week course of fluc for candidiasis.
   - Got 1L bolus in AM, then second liter in PM for sbp 70s.
   - D/c'd cefepime
   - Palliative care discussed with patient prognosis and that likely
   trach and peg would not offer survival advantage and probable poor
   quality of life.  Patient asked Dr. [**Last Name (STitle) 2377**] to discuss this with sister
   further before making decision.  He was started on scopalamine patch
   for airway secretions, and ketorolac x3 days for hip pain [**3-3**] bony
   mets, and morphine iv prior to movement.
   - Ordered CT neck to evaluate extent of malignancy and see if trach is
   a possibility w/ his anatomy
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-3-25**] 10:16 AM
   Fluconazole - [**2111-3-25**] 02:32 PM
   Metronidazole - [**2111-3-26**] 12:00 AM
   Vancomycin - [**2111-3-26**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2111-3-25**] 08:00 AM
   Morphine Sulfate - [**2111-3-25**] 10:17 AM
   Pantoprazole (Protonix) - [**2111-3-25**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-26**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.3
   HR: 67 (63 - 79) bpm
   BP: 98/50(60) {72/45(57) - 110/66(77)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 50.8 kg
             Total In:
                                                                  3,786 mL
                                                                  1,970 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    396 mL
   IVF:
                                                                  2,504 mL
                                                                  1,574 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    785 mL
   Urine:
                                                                  2,200 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,586 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 627 (117 - 938) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   7.0 g/dL
   106 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   23 mg/dL
   111 mEq/L
   139 mEq/L
   21.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2111-3-22**]  11:13 AM
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   Plt
   [**Telephone/Fax (3) 13619**]88
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   TCO2
   27
   23
   22
   Glucose
   124
   128
   86
   87
   106
   Other labs: PT / PTT / INR:14.1/39.8/1.2, Ca++:9.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: .
   Imaging: no new imaging
   Microbiology: AFB negative x 3
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   # Squamous cell carcinoma: Followed at [**Hospital1 403**]. Per [**Hospital1 403**] oncologist no
   further care that patient could tolerate, recommend comfort measures.
   At this time patient still decidind between trach and peg, would like
   to speak with palliative care. Of note, on [**Hospital1 403**] records diagnosed in
   [**2108**], s/p cisplatin/docetaxol (last course [**2110-12-30**]) and XRT to mass
   ([**2108**]) and XRT to hip ([**2110**]). PET ([**5-8**]) sig for decrease in size of
   tongue, lung, rib lesion, but increase in pubic ramus and colon, but
   CT [**11-7**] w/ progressive disease and increase in lung mass, and new 7^th
   rib and t6/t8 met.  [**7-8**] colonoscopy neg for masses/polyps.
   - Patient deciding between terminal extubation with comfort measures
   and trach/peg, as there are no further treatment options
   - Follow up with palliative care, appreciate their input
   # Respiratory failure: Upper-respiratory/airway obstruction and
   compromise [**3-3**] cancer.
   - Palliative care to consult, as patient deciding between terminal
   extubation vs trach
   - Remains intubated for now
   - Currently on cefepime for nosocomial infection, gram stain negative
   but sputum culture pnd
   - DC cefepime as he has completed over 8 day course for nosocomial
   infxn
   # Anemia
   # Hypotension: Patient became hypotensive after intubation. He does
   have a leukocytosis but afebrile and trending down. [**Month (only) 51**] be hypovolemic.
   Also considering compromised preload from intubation and peep. Cortisol
   normal.
   - IVF 500-1000cc prn
   - Cont abx: fluc, and flagyl
   - C diff course will be 14 days from today [**2111-3-25**] at least
   # Esophageal candidiasis:
   - fluconazole
   # Anemia: HCT stable. Hemolysis labs normal.
   - Continue to monitor
   # Latent TB: Concern for potential reactivation of TB.  CTA notable for
   tree in [**Male First Name (un) **] opacity; while this is non-specific in the setting of
   positive PPD will r/o for active TB.  Per [**Hospital1 403**] records, patient was not
   ruled out as he was unable to produce sputum and in the absence of
   symptoms, he did not undergo bronch.
   - Rule out TB, first two sets have been negative for AFB
   - ID following, appreciate recs
   - last set of AFB pending
   - Continue precautions
   # Leukocytosis: Trending down. [**Month (only) 51**] be [**3-3**] cfdiff. Also treating for PNA
   and esophageal candidiasis.
   - Cont iv flagyl, po vanc, fluc
   - f/u cultures and afb
   # C diff: Started treatment while at nursing home.
   - F/u stool cx
   - Cont vanc/flagyl for at least 14 days from [**3-25**] (last day of
   cefepime)
   # Hypercalcemia: Resolved. S/p pamidronate x1 [**3-20**]. Secondary to
   malignancy vs bony mets.
   - Cont to trend
   - IVFs for now, can give second dose of pamidronate if needed
   - F/u PTH, PTH rp, vit D (pending)
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2111-3-25**] 03:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2111-03-27 07:13:00 Physician Resident Progress Note
Chief Complaint: head and neck cancer
   24 Hour Events:
   - After extensive discussions with palliative care, family, and ICU
   team, pt decided he would like to get a trach.
   - Palliative care would like to consider priest to come by if [**Name (NI) 13588**]
   would be interested (if he's religious)
   - General surgery consult said to consult ENT for trach and IR for PEG.
   - Discussed with ENT, they will see pt in the AM, the consult resident
   Dr. [**First Name (STitle) 575**] would appreciate a reminder page in the AM (between [**8-6**]) at
   [**Pager number 13640**] if possible
   - Transfused 2 units PRBCs for HCT of 21.5, post transfusion HCT 27.6.
   - CT neck prelim read revealed: A small area of ill-defined soft tissue
   density anterior to the endotracheal tube just below the level of vocal
   cord (301B, 70) may represent synechia or scar tissue or secretion. 2.
   Left cervical soft tissue thickening with adjacent fat stranding may
   represent post-surgical and radiation therapy change.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-3-25**] 10:16 AM
   Fluconazole - [**2111-3-26**] 02:22 PM
   Metronidazole - [**2111-3-27**] 12:00 AM
   Vancomycin - [**2111-3-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-3-26**] 08:00 PM
   Enoxaparin (Lovenox) - [**2111-3-26**] 08:00 PM
   Morphine Sulfate - [**2111-3-27**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Flowsheet Data as of  [**2111-3-27**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 70 (63 - 74) bpm
   BP: 123/63(78) {95/50(61) - 124/63(78)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 50.8 kg
             Total In:
                                                                  4,053 mL
                                                                    771 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    359 mL
   IVF:
                                                                  2,057 mL
                                                                    172 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,095 mL
                                                                    370 mL
   Urine:
                                                                  2,095 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,958 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (460 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 9.6 L/min
   Physical Examination
   Gen: Intubated; awake; cachectic
   Pulm: CTAB
   CV: RR, no murmurs
   Abd: Soft NTND
   Ext: No edema
   Labs / Radiology
   207 K/uL
   9.6 g/dL
   107 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.2 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   28.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2111-3-22**]  04:18 PM
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
                             [**2111-3-26**]  08:11 PM
                             [**2111-3-27**]  03:57 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   13.9
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   27.6
   28.9
   Plt
   [**Telephone/Fax (3) 13619**]88
   207
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.7
   TCO2
   23
   22
   Glucose
   124
   128
   86
   87
   106
   107
   Other labs:
   PT / PTT / INR:13.4/36.6/1.1,
   Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   : .
   Imaging:
   CT NECK PRELIM
   - small area of ill-defined soft tissue density anterior to the
   endotracheal tube just below the level of vocal cord may represent
   synechia or scar tissue or secretion.
   - Left cervical soft tissue thickening with adjacent fat stranding may
   represent post-surgical and radiation therapy change.
   - Large right chest wall mass extending into the right lung is
   partially visualized. Multifocal osseous metastasis as described.
   - Multilevel degenerative disease in the cervical spine, concurrent
   metastasis cannot be excluded.
   Microbiology:
   RESPIRATORY CULTURE (Final [**2111-3-25**]):
      Commensal Respiratory Flora Absent.
         YEAST.    RARE GROWTH.
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   # Squamous cell carcinoma:
   Per [**Hospital1 403**] oncologist no further care that patient could tolerate,
   recommend comfort measures
   - Patient deciding between terminal extubation with comfort measures
   and trach/peg, as there are no further treatment options
   - Follow up with palliative care, appreciate their input
   - discuss code status, limits to care (CPR)
   # Respiratory failure: Upper-respiratory/airway obstruction and
   compromise [**3-3**] cancer.
   - Palliative care to consult, as patient deciding between terminal
   extubation vs trach
   - Remains intubated for now
   - scopalamine for secretions
   # Anemia
   Gradual dropp in Hct. Has some blood loss from tumor, esophageal
   candidiasis
   - transfuse 2 units pRBCs
   # C diff: Started treatment while at nursing home.
   - F/u stool cx
   - Cont vanc/flagyl for at least 14 days from [**3-25**] (last day of
   cefepime)
   # Esophageal candidiasis:
   - cont fluconazole
   # Leukocytosis: Trending down. [**3-3**] cfdiff vs esophageal candidiasis.
   - Cont iv flagyl, po vanc, fluc
   - f/u cultures
   # Hypercalcemia: Resolved. S/p pamidronate x1 [**3-20**]. Secondary to
   malignancy vs bony mets.
   - Cont to trend
   - F/u PTH, PTH rp, vit D (pending)
   # Hypotension:
   Normotensive. Responds to IVF.
   - IVF 500-1000cc prn
   - Cont abx: fluc, and flagyl
   - C diff course will be 14 days from today [**2111-3-25**] at least
   # Latent TB:
   Ruled out for TB
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2111-3-25**] 03:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin changed to hep SQ
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2111-03-28 07:31:00 Physician Resident Progress Note
Chief Complaint: 61 yo w/ metastatic squamous cell carcinoma of the
   tongue, h/o +PPD initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic
   respiratory failure.  Currently, treated for pna, c diff,
   hypercalcemia, and transferred from floors to [**Hospital Unit Name 1**] for intubation for
   airway protection.
   .
   He was initially scheduled for trach next week and PEG today; however,
   after speaking with the head and neck surgeon, he decided not to
   undergo the tracheostomy and transition to comfort oriented care. The
   PEG was cancelled and code status was changed to DNR/DNI.  Discussions
   underway about disposition and modification of treatment for his other
   conditions.
   24 Hour Events:
   - was all set up for trach/PEG but changed mind after speaking with ENT
   surgeon and hearing about substantial risks and likely minimal benefit.
   Now CMO and will d/c to hospice. continuing to treat c diff and
   esophageal candidiasis (will also affect comfort)
   - extubated and comfortable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2111-3-25**] 10:16 AM
   Fluconazole - [**2111-3-26**] 02:22 PM
   Metronidazole - [**2111-3-28**] 12:01 AM
   Vancomycin - [**2111-3-28**] 05:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-3-27**] 08:40 AM
   Morphine Sulfate - [**2111-3-27**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 74 (69 - 82) bpm
   BP: 136/70(84) {104/56(68) - 143/78(94)} mmHg
   RR: 38 (16 - 50) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.1 kg (admission): 50.8 kg
             Total In:
                                                                  1,496 mL
                                                                    192 mL
   PO:
             TF:
                                                                    770 mL
   IVF:
                                                                    486 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    860 mL
   Urine:
                                                                  1,890 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -394 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (460 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   10.9 g/dL
   78 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   17 mg/dL
   106 mEq/L
   139 mEq/L
   31.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2111-3-23**]  12:35 AM
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
                             [**2111-3-26**]  08:11 PM
                             [**2111-3-27**]  03:57 AM
                             [**2111-3-28**]  03:00 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   13.9
   14.4
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   27.6
   28.9
   31.4
   Plt
   [**Telephone/Fax (3) 13619**]88
   207
   213
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   TCO2
   22
   Glucose
   124
   128
   86
   87
   106
   107
   78
   Other labs: PT / PTT / INR:13.4/36.6/1.1, ALT / AST:[**9-17**], Alk Phos / T
   Bili:120/0.1, Differential-Neuts:83.4 %, Lymph:8.2 %, Mono:7.6 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:10.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CT Neck:  [**3-26**]:
   1. Patent airway with endotracheal tube in place. Minimal soft tissue
   thickening at the level of cricoid and thyroid cartilage likely
   represents
   vocal cords, although further evaluation in this region is limited due
   to presence of the tube. A small area of ill-defined density anterior
   to the
   endotracheal tube just below the level of vocal cord (301B, 70) may
   represent
   synechia or scar tissue or secretion.
   2. Left cervical soft tissue thickening with adjacent fat stranding may
   represent post-surgical and radiation therapy change in this region.
   Partial
   strap muscle resection and submental surgical clips evident on the
   left.
   3. Partial visualization of a large right chest wall mass extending
   into
   right lung with multifocal osseous metastasis.
   4. Multilevel degenerative disease in the cervical spine, concurrent
   metastasis cannot be excluded.
   5. Subcentimeter left thyroid nodule may be further evaluated by
   ultrasound on non-emergent basis as clinically indicated.
   6. Partially visualized endotracheal tube, nasogastric tube, and left
   approach central venous catheter appear to be in expected locations.
   Assessment and Plan
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   .
   He was initially scheduled for trach next week and PEG today; however,
   after speaking with the head and neck surgeon, he decided not to
   undergo the tracheostomy and transition to comfort oriented care. The
   PEG was cancelled and code status was changed to DNR/DNI.  Discussions
   underway about disposition and modification of treatment for his other
   conditions.
   .
   # Respiratory failure [**3-3**] upper airway secretions/squamous cell
   carcinoma
   - no further treatment
   - appreciate assistance from palliative care
   - scopalamine for secretions
   .
   # Pain control
   IV morphine PRN. Also started fentanyl patch yesterday.
   .
   # Anemia: stable
   .
   # C diff:
   Was on vanc/flagyl because with increaing leukocytosis while on flagyl
   but this may have been from esophageal candidiasis.
   -Continue PO vanc per OG tube (we will leave the OG tube in as long as
   patient can tolerate)
   - Cont  IV flagyl for now
   - last day of course is [**3-31**]
   .
   # Esophageal candidiasis:
   - cont fluconazole
   .
   # Hypotension:
   Normotensive. Responds to IVF.
   - IVF 500-1000cc prn
   .
   # Latent TB:
   Ruled out for TB
   .
   ICU Care
   Nutrition:  comfort feeds (no prescribed Tfeeds per OG tube)
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: to hospice (bed search ongoing)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU WEEKEND COVERAGE ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 10958**]
s above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: Code status DNR/DNI; extubated.
   Currently c/o pain, better when he lies still.  Coughing sputum, but
   swallowing.  No dyspnea.
   Afebrile P70-80, 130/70.  RR16-50 Sat >=90%.
   Exam notable for Thin man, lying in bed in NAD.  Neck with fibrotic
   changes on skin.  Awake, alert, responsive.  B/L ronchi, few crackles.
   RRR S1 S2.  Abd soft +BS NT.  No peripheral edema.
   Labs notable for WBC 14 down from 30
s, Hct 31, Plt 213, normal
   electrolytes.  INR 1.1.
   Meds include: PO Vanc, flagyl, fluconazole.
   Agree with plan to continue antibiotics (Cdiff positive at OSH) and
   transfer to hospice care vs floor if hospice not available, code status
   is DNR/DNI.  Will keep OGT for now for PO meds.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2111-3-28**] 11:59 AM ------

2111-03-29 08:26:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Shortness of breath, mucous plugging
   24 Hour Events:
 CALLED OUT
   [**3-28**]
   -kept Dobhoff in: are not using tube for feeds, but still administring
   PO vanc via OGT.  comfort feeds only by mouth.
   -still on vanc, flagyl, and fluconazole
   -case management: no hospice bed available today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-3-28**] 12:00 PM
   Fluconazole - [**2111-3-28**] 02:00 PM
   Metronidazole - [**2111-3-29**] 12:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-29**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.4
   HR: 80 (67 - 84) bpm
   BP: 115/65(76) {115/60(74) - 153/84(101)} mmHg
   RR: 30 (17 - 55) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49 kg (admission): 50.8 kg
             Total In:
                                                                    565 mL
                                                                    352 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                    420 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    530 mL
   Urine:
                                                                  2,030 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,465 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   11.0 g/dL
   58 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   33.0 %
   18.0 K/uL
        [image002.jpg]
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
                             [**2111-3-26**]  08:11 PM
                             [**2111-3-27**]  03:57 AM
                             [**2111-3-28**]  03:00 AM
                             [**2111-3-29**]  05:25 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   13.9
   14.4
   18.0
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   27.6
   28.9
   31.4
   33.0
   Plt
   [**Telephone/Fax (3) 13619**]88
   207
   213
   194
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.9
   Glucose
   124
   128
   86
   87
   106
   107
   78
   58
   Other labs: PT / PTT / INR:13.4/36.6/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:208/0.4, Differential-Neuts:83.4 %, Lymph:8.2 %, Mono:7.6 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:10.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Microbiology: [**2111-3-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2111-3-24**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2111-3-24**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PRELIMINARY INPATIENT
   [**2111-3-23**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY INPATIENT
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   .
   He was initially scheduled for trach next week and PEG today; however,
   after speaking with the head and neck surgeon, he decided not to
   undergo the tracheostomy and transition to comfort oriented care. The
   PEG was cancelled and code status was changed to DNR/DNI.  Discussions
   underway about disposition and modification of treatment for his other
   conditions.
   .
   # Respiratory failure [**3-3**] upper airway secretions/squamous cell
   carcinoma
   - no further treatment
   - appreciate assistance from palliative care
   - scopalamine for secretions
   .
   # Pain control
   IV morphine PRN. Also started fentanyl patch yesterday.
   .
   # Anemia: stable
   .
   # C diff:
   Was on vanc/flagyl because with increaing leukocytosis while on flagyl
   but this may have been from esophageal candidiasis.
   -Continue PO vanc per OG tube (we will leave the OG tube in as long as
   patient can tolerate)
   - Cont  IV flagyl for now
   - last day of course is [**3-31**]
   .
   # Esophageal candidiasis:
   - cont fluconazole
   .
   # Hypotension:
   Normotensive. Responds to IVF.
   - IVF 500-1000cc prn
   .
   # Latent TB:
   Ruled out for TB
   .
   ICU Care
   Nutrition:  comfort feeds (no prescribed Tfeeds per OG tube)
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   20 Gauge - [**2111-3-22**] 09:14 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: to hospice (bed search ongoing)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: Floor

2111-03-30 07:13:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath, mucous plugging
   24 Hour Events:
   [**3-29**]
   -Increased fentanyl patch due to pain with movement
   -Repleted mag
   -Family meeting, pt and family ok with CMO, stopping lab draw, etc
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-3-28**] 12:00 PM
   Fluconazole - [**2111-3-29**] 10:00 AM
   Metronidazole - [**2111-3-30**] 12:44 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-3-30**] 03:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-3-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.7
C (96.2
   HR: 76 (69 - 88) bpm
   BP: 129/65(79) {104/56(69) - 138/78(91)} mmHg
   RR: 26 (16 - 41) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.2 kg (admission): 50.8 kg
             Total In:
                                                                  1,060 mL
                                                                    256 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                    520 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,503 mL
                                                                    880 mL
   Urine:
                                                                  1,503 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -443 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   11.0 g/dL
   58 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   33.0 %
   18.0 K/uL
        [image002.jpg]
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
                             [**2111-3-26**]  08:11 PM
                             [**2111-3-27**]  03:57 AM
                             [**2111-3-28**]  03:00 AM
                             [**2111-3-29**]  05:25 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   13.9
   14.4
   18.0
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   27.6
   28.9
   31.4
   33.0
   Plt
   [**Telephone/Fax (3) 13619**]88
   207
   213
   194
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.9
   Glucose
   124
   128
   86
   87
   106
   107
   78
   58
   Other labs: PT / PTT / INR:13.4/36.6/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:208/0.4, Differential-Neuts:83.4 %, Lymph:8.2 %, Mono:7.6 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:10.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: No new imaging
   Microbiology: [**2111-3-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2111-3-24**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2111-3-24**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PRELIMINARY INPATIENT
   [**2111-3-23**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY INPATIENT
   [**2111-3-23**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2111-3-23**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2111-3-23**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2111-3-23**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST};
   FUNGAL CULTURE-PRELIMINARY {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PRELIMINARY INPATIENT
   Assessment and Plan
   61 yo w/ metastatic squamous cell carcinoma of the tongue, h/o +PPD
   initially transferred to [**Hospital1 19**] [**3-13**] for hypoxic respiratory failure.
   Currently, treated for pna, c diff, hypercalcemia, and transferred from
   floors to [**Hospital Unit Name 1**] for intubation for airway protection.
   .
   He was initially scheduled for trach next week and PEG today; however,
   after speaking with the head and neck surgeon, he decided not to
   undergo the tracheostomy and transition to comfort oriented care. The
   PEG was cancelled and code status was changed to CMO.  Plan to treat C.
   Diff colitis, no longer following daily labs.
   .
   # Pain control
 fentanyl path dose yesterday, also on oxycodone prn.
   - Increase fentanyl patch as needed for pain control
   .
   # C diff:
   Was on vanc/flagyl because with increasing leukocytosis while on flagyl
   but this may have been from esophageal candidiasis.
   - Continue PO vanc per OG tube (we will leave the OG tube in as long as
   patient can tolerate)
   - Cont  IV flagyl for now
   - 2 week course starting from [**2111-3-19**]
   .
   # Respiratory failure [**3-3**] upper airway secretions/squamous cell
   carcinoma
   - no further treatment
   - appreciate assistance from palliative care
   - scopalamine for secretions
   .
   # Anemia: lab draws d/c
   .
   # Esophageal candidiasis:
   - cont fluconazole with 2 week course from [**2111-3-23**]
   .
   # Hypotension:
   Normotensive. Responds to IVF.
   - IVF 500-1000cc prn
   .
   # Latent TB:
   Ruled out for TB
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2111-03-30 12:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Now comfort care
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-3-28**] 12:00 PM
   Fluconazole - [**2111-3-29**] 10:00 AM
   Metronidazole - [**2111-3-30**] 07:50 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-3-30**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, Ca
   Tongue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**4-2**] Mild
   Pain location: on patch and SL morphine
   Flowsheet Data as of  [**2111-3-30**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 78 (69 - 88) bpm
   BP: 140/83(95) {104/56(69) - 140/83(95)} mmHg
   RR: 23 (18 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.2 kg (admission): 50.8 kg
             Total In:
                                                                  1,060 mL
                                                                    379 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                    520 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,503 mL
                                                                  1,120 mL
   Urine:
                                                                  1,503 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -443 mL
                                                                   -741 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   194 K/uL
   58 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   33.0 %
   18.0 K/uL
        [image002.jpg]
                             [**2111-3-23**]  05:00 AM
                             [**2111-3-23**]  03:28 PM
                             [**2111-3-24**]  03:49 AM
                             [**2111-3-24**]  05:29 PM
                             [**2111-3-25**]  04:53 AM
                             [**2111-3-26**]  04:39 AM
                             [**2111-3-26**]  08:11 PM
                             [**2111-3-27**]  03:57 AM
                             [**2111-3-28**]  03:00 AM
                             [**2111-3-29**]  05:25 AM
   WBC
   31.3
   24.2
   16.9
   11.7
   13.9
   14.4
   18.0
   Hct
   23.1
   23.0
   24.6
   24.1
   21.5
   27.6
   28.9
   31.4
   33.0
   Plt
   [**Telephone/Fax (3) 13619**]88
   207
   213
   194
   Cr
   0.6
   0.8
   0.7
   0.8
   0.7
   0.7
   0.7
   0.9
   Glucose
   124
   128
   86
   87
   106
   107
   78
   58
   Other labs: PT / PTT / INR:13.4/36.6/1.1, ALT / AST:[**9-28**], Alk Phos / T
   Bili:208/0.4, Differential-Neuts:83.4 %, Lymph:8.2 %, Mono:7.6 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, LDH:201 IU/L, Ca++:10.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 .H/O HYPERCALCEMIA (HIGH CALCIUM)
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 LEUKOCYTOSIS
 AIRWAY OBSTRUCTION, CENTRAL / UPPER
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
   He is still having significant pain in his hip when moved. We are
   increasing the dose of his fentanyl patch, adding SL morphine.  He
   wishes to continue his Foley catheter. Plan to complete course of
   Flagyl for his C diff for comfort
   ICU Care
   Nutrition:
   Comments: None
   Glycemic Control:
   Lines:
   PICC Line - [**2111-3-22**] 12:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: CMO
   Disposition :Transfer to other facility - for hospice care
   Total time spent: 35 minutes